US08232294B2
Step 2) 6,7-dimethoxyquinolin-4-ol
5-((3,4-Dimethoxyphenylamino)methylene)-2,2-dimethyl-1,3-dioxane-4,6-dione (16.1 g, 52 mmol) was added to a pre-heated 1000 mL round-bottom flask containing 1-phenoxy benzene (100 mL) at 230° C. The reaction was stirred for 5 min, and then cooled to 120° C. n-Hexane (100 mL) was added to the solution to allow the product to precipitate out from the reaction solution. The mixture was further stirred at rt overnight. The solid was collected and crystallized in a solution of EtOAc/n-hexane (50 mL, v/v=10/1) to afford the title compound as a brown solid (10.2 g, 95%).

reactant | 5-((3,4-Dimethoxyphenylamino)methylene)-2,2-dimethyl-1,3-dioxane-4,6-dione | 52 mmol, 16.1 g | COC=1C=C(C=CC1OC)NC=C1C(OC(OC1=O)(C)C)=O | C15H17NO6
reactant | 1-phenoxy benzene | 100 mL | O(C1=CC=CC=C1)C1=CC=CC=C1 | C12H10O
solvent | n-Hexane | 100 mL | CCCCCC | C6H14
product | 6,7-dimethoxyquinolin-4-ol | 10.2 g, 95% | COC=1C=C2C(=CC=NC2=CC1OC)O | C11H11NO3
